US04332820
2-(4-Phenoxyphenoxy)-5-nitrobenzonitrile
To a solution of 5.71 g (0.0307 moles) of 4-phenoxyphenol dissolved in 150 ml of DMSO was added 1.23 g (0.0307 moles) of NaOH. The slurry was heated at 75° C. for 15 minutes and 5.04 g (0.0276 moles) of 2-chloro-5-nitrobenzonitrile was added and the mixture heated at 75° C. for 4 hrs. The reaction mixture was cooled and poured into water. The product was collected by filtration, washed well with water and dried. The crude product was dissolved in CH2CL2 and washed with 10% aqueous NaOH, water and dried (Na2SO4). Removal of solvent in vacuo afforded 8.0 g (87% yield) of product. Recrystallization from ethanol gave purified 2-(4-phenoxyphenoxy)-5-nitrobenzonitrile, mp 150°-151.5° C.

reactant | 4-phenoxyphenol | 0.0307 moles, 5.71 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | NaOH | 0.0307 moles, 1.23 g | [OH-].[Na+]
reactant | 2-chloro-5-nitrobenzonitrile | 0.0276 moles, 5.04 g | ClC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | water | O | H2O
solvent | DMSO | 150 ml | CS(=O)C | C2H6OS
product | 2-(4-Phenoxyphenoxy)-5-nitrobenzonitrile | 8.0 g, 87% yield | O(C1=CC=CC=C1)C1=CC=C(OC2=C(C#N)C=C(C=C2)[N+](=O)[O-])C=C1 | C19H12N2O4
